US07566724B2
In the same manner as in Example 1, 2-(2,6-dichlorobenzamido)pent-4-enoic acid methyl ester (143 mg) was reacted with N-(4-iodophenyl)-N-isobutylpyrimidin-2-amine (167 mg) to obtain (E)-2-(2,6-dichlorobenzamido)-5-[4-(isobutyl-pyrimidin-2-ylamino)phenyl]pent-4-enoic acid methyl ester (159 mg). Column chromatography (silica gel, eluent: hexane/ethyl acetate=1/1) was used for purification.

reactant | 2-(2,6-dichlorobenzamido)pent-4-enoic acid methyl ester | 143 mg | COC(C(CC=C)NC(C1=C(C=CC=C1Cl)Cl)=O)=O | C13H13Cl2NO3
reactant | N-(4-iodophenyl)-N-isobutylpyrimidin-2-amine | 167 mg | IC1=CC=C(C=C1)N(C1=NC=CC=N1)CC(C)C | C14H16IN3
product | (E)-2-(2,6-dichlorobenzamido)-5-[4-(isobutyl-pyrimidin-2-ylamino)phenyl]pent-4-enoic acid methyl ester | 159 mg | COC(C(C\C=C\C1=CC=C(C=C1)N(C1=NC=CC=N1)CC(C)C)NC(C1=C(C=CC=C1Cl)Cl)=O)=O | C27H28Cl2N4O3
